US04705782
2-Bromo-5,6-dimethoxy-indan-1-one (69.1 g) was suspended in ethanol (1,200 ml) and added to a solution of potassium cyanide (70.4 g) in water (2,200 ml). The reaction mixture was heated at reflux for 1 hour and then the ethanol was distilled off. The dark solution was cooled, stirred and carefully neutralised with hydrochloric acid (5M, 120 ml) in a well ventilated hood. The organic extracts were combined, washed with brine, dried over magnesium sulphate, filtered, then concentrated to low volume under reduced pressure. The residual liquid was filtered through a column of coarse silica (0.2-0.5 mm, Merck, 300 g) and the column was eluted with dichloromethane. The appropriate fractions were combined and evaporated to dryness to give 2-Cyano-5,6-dimethoxy-indan-1-one (24.6 g). A portion crystallised from dichloromethane: ether; m.p. 177°-179° C.

reactant | 2-Bromo-5,6-dimethoxy-indan-1-one | 69.1 g | BrC1C(C2=CC(=C(C=C2C1)OC)OC)=O | C11H11BrO3
reactant | potassium cyanide | 70.4 g | [C-]#N.[K+]
solvent | ethanol | 1,200 ml | C(C)O | C2H6O
solvent | water | 2,200 ml | O | H2O
product | 2-Cyano-5,6-dimethoxy-indan-1-one | 24.6 g | C(#N)C1C(C2=CC(=C(C=C2C1)OC)OC)=O | C12H11NO3
